US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 64 μL (0.55 mmol) of 4-methoxyaniline. After purification by chromatography on silica (eluent dichloromethane/methanol/acetonitrile 95/3/2) then trituration in diethyl ether, 21 mg (10%) of 8-(4-methoxy-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 4-methoxyaniline | 0.55 mmol, 64 μL | COC1=CC=C(N)C=C1 | C7H9NO
product | 8-(4-methoxy-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 21 mg, 10% | COC1=CC=C(C=C1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C18H15N3O4S.C3H6O2/c1-25-12-4-2-11(3-5-12)21-26(23,24)13-6-7-16-15(10-13)14-8-9-19-17(14)18(22)20-16;1-2-3(4)5/h2-10,19,21H,1H3,(H,20,22);2H2,1H3,(H,4,5)/p-1
